US04436549
A. 1-Bromo-3-methyl-3-ethyl-2-pentanone
To a solution of 9.0 g of 3-methyl-3-ethyl-2-pentanone in 100 ml diethyl ether cooled to about 0°-5° C. with an ice bath was added 3.6 ml bromine. The reaction mixture was allowed to warm to room temperature and a catalytic amount of aluminum chloride was added. The mixture was stirred for 30 minutes and washed with water and a saturated sodium bicarbonate solution. The organic phase was separated, dried over anhydrous sodium sulfate and evaporated under vacuum to provide an oil. The oil was distilled under vacuum to provide 6.3 g of product. bp=100°-114° C. at 16 mm.

reactant | 3-methyl-3-ethyl-2-pentanone | 9.0 g | CC(C(C)=O)(CC)CC | C8H16O
reactant | bromine | 3.6 ml | BrBr | Br2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1-Bromo-3-methyl-3-ethyl-2-pentanone | 6.3 g | BrCC(C(CC)(CC)C)=O | C8H15BrO
